US07700628B2
Preparation of N-(5-Chloropyridin-2-yl)-2-[2-[3-(dimethylamino)propoxy]-4-(morpholin-4-yl)benzoylamino]-5-fluorobenzamide
A mixture of 2-[2-(3-aminopropoxy)-4-(morpholin-4-yl)benzoylamino]-N-(5-chloropyridin-2-yl)-5-fluorobenzamide (400 mg, 0.76 mmol), paraformaldehyde (96 mg, 3.19 mmol) and MeOH (75 mL) was adjusted to pH 5-6 with AcOH. Sodium cyanoborohydride (96 mg, 1.57 mmol) was added. After stirring overnight, the reaction was acidified with 1 N HCl (pH=2) and stirred for 2 hours. Methylene chloride was added to the mixture and it was basified with 50% satd Na2 CO3. The organic layer was dried (Na2 SO4) and concentrated to give the desired product (418 mg, 99%).

reactant | 2-[2-(3-aminopropoxy)-4-(morpholin-4-yl)benzoylamino]-N-(5-chloropyridin-2-yl)-5-fluorobenzamide | 0.76 mmol, 400 mg | NCCCOC1=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=C(C=C2)F)C=CC(=C1)N1CCOCC1 | C26H27ClFN5O4
reactant | paraformaldehyde | 3.19 mmol, 96 mg | C=O | CH2O
reactant | Sodium cyanoborohydride | 1.57 mmol, 96 mg | C(#N)[BH3-].[Na+]
reactant | HCl | 1 N, pH=2 | Cl | ClH
solvent | Methylene chloride | C(Cl)Cl | CH2Cl2
solvent | AcOH | CC(=O)O | C2H4O2
solvent | MeOH | 75 mL | CO | CH4O
product | N-(5-Chloropyridin-2-yl)-2-[2-[3-(dimethylamino)propoxy]-4-(morpholin-4-yl)benzoylamino]-5-fluorobenzamide | 418 mg, 99% | ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)F)NC(C1=C(C=C(C=C1)N1CCOCC1)OCCCN(C)C)=O)=O | C28H31ClFN5O4
